US04772600
2-(3-Chlorophenyl)-N-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (2.38 g, 0.019 mole) was added slowly dropwise to a stirred and chilled (15°-20° C.) solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.70 g, 0.016 mole) in 50 ml of dimethylformamide. The reaction mixture was stirred at ambient temperature for 1/2 hr., then warmed to 60°-65° C. for 5 hrs. This acylchloride solution was added dropwise under nitrogen to a stirred and chilled (15°-20° C.) solution of 2-aminopyridine (1.76 g, 0.019 mole), triethylamine (1.89 g, 0.019 mole), and 30 ml of dimethylformamide. The reaction mixture was stirred at room temperature over the weekend. The reaction mixture was poured into 400 ml of ice water and extracted with ethyl acetate (3×). The ethyl acetate layers were washed with 5% potassium hydroxide (2×60 ml), water (2×50 ml), dried, and filtered. The residue was treated with isopropyl alcohol and excess ethereal hydrogen chloride to give solid which was recrystallized twice from isopropyl alcohol-isopropyl ether and once from isopropyl alcohol. The solid was collected by filtration, washed with cold isopropyl alcohol, then isopropyl alcohol-water, and dried under high vacuum for 2 days to give 0.92 g (15.8%) of title compound, mp 165°-66° C.

reactant | oxalyl chloride | 0.019 mole, 2.38 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.016 mole, 4.70 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 2-aminopyridine | 0.019 mole, 1.76 g | NC1=NC=CC=C1 | C5H6N2
reactant | triethylamine | 0.019 mole, 1.89 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(3-Chlorophenyl)-N-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.92 g, 15.8% | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=NC=CC=C1 | C19H14ClN5O
